US05661108
Under a nitrogen atmosphere, a stirred solution of 5.0 grams (0.030 mole) of 2-propyn-1-ylamino)-5-fluoroaniline in 70 mL of trifluoroacetic acid was heated at reflux for 1.5 hours. The reaction mixture was then cooled to ambient temperature and poured into ice water. The mixture was extracted thoroughly with portions of diethyl ether. The combined extracts were washed with an aqueous solution saturated with sodium bicarbonate and then dried with magnesium sulfate. The mixture was filtered, and the filtrate concentrated under reduced pressure to a residual oil. The oil was triturated with cold water, and the resultant solid was collected by filtration. The solid was dried, yielding 5.0 grams of 1-(2-propyn-1-yl)-2-trifluoromethyl-5-fluorobenzimidazole. The NMR spectrum was consistent with the proposed structure. The reaction was repeated.

reactant | 5-fluoroaniline | FC=1C=CC=C(N)C1 | C6H6FN
reactant | trifluoroacetic acid | 70 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(2-propyn-1-yl)-2-trifluoromethyl-5-fluorobenzimidazole | 5.0 grams | C(C#C)N1C(=NC2=C1C=CC(=C2)F)C(F)(F)F | C11H6F4N2
